US06337351B1
(4E)-5-(3-(Dimethylamino)phenyl)-4-penten-2-ol
A mixture of 3-bromo-N,N-dimethylaniline (1.00 g, 5.00 mmol), 4-penten-2-ol (450 mg, 5.23 mmol), palladium(II) acetate (11 mg, 0.050 mmol) and tri-o-tolylphosphine (61 mg, 0.20 mmol) was diluted with triethylamine (1.5 mL) and acetonitrile (3 mL) and refluxed under nitrogen for 16 h. The mixture was cooled, poured into water (15 mL) and extracted with chloroform (2×15 mL). The chloroform extracts were dried (Na2SO4) and evaporated. The residue was column chromatographed on 35 g of Merck silica gel 60 (70-230 mesh) with 10-20% (v/v) ethyl acetate, 20% (v/v) chloroform in hexane to give 657 mg (63.7% yield) of light yellow oil.

reactant | 3-bromo-N,N-dimethylaniline | 5.00 mmol, 1.00 g | BrC=1C=C(N(C)C)C=CC1 | C8H10BrN
reactant | 4-penten-2-ol | 5.23 mmol, 450 mg | CC(CC=C)O | C5H10O
reactant | tri-o-tolylphosphine | 0.20 mmol, 61 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | water | 15 mL | O | H2O
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.050 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (4E)-5-(3-(Dimethylamino)phenyl)-4-penten-2-ol | 63.7% yield | CN(C=1C=C(C=CC1)/C=C/CC(C)O)C | C13H19NO
